US07317125B2
Preparation of (2′-ethyl-5-fluoro-biphenyl-2-yloxy)-acetic acid
A solution of (2-bromo-4-fluoro-phenoxy)-acetic acid-t-butyl ester (2.00 g, 6.55 mmol) in DME (16 ml)/2M Na2CO3 (11.46 ml, 22.93 mmol) was treated with 2-ethylphenylboronic acid (1.96 g, 13.10 mmol), and Pd[PPh3]4 (757 mg, 0.655 mmol) in a microwave oven at 150° C. for 10 min. The reaction mixture was partitioned between water and ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated. The crude was absorbed on silica and purified on a silica gel column with a 5-20% ethyl acetate/hexanes gradient to afford 1.25 g of colorless oil (t-butyl ester). This material was dissolved in 4N HCl/dioxane (10 ml) and stirred at rt overnight. Concentration under reduced pressure afforded the product as colorless oil (1.08 g, 60%).

reactant | (2-bromo-4-fluoro-phenoxy)-acetic acid-t-butyl ester | 6.55 mmol, 2.00 g | C(C)(C)(C)OC(COC1=C(C=C(C=C1)F)Br)=O | C12H14BrFO3
reactant | Na2CO3 | 22.93 mmol, 2M, 11.46 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-ethylphenylboronic acid | 13.10 mmol, 1.96 g | C(C)C1=C(C=CC=C1)B(O)O | C8H11BO2
solvent | DME | 16 ml | COCCOC | C4H10O2
product | (2′-ethyl-5-fluoro-biphenyl-2-yloxy)-acetic acid | 1.25 g | C(C)C1=C(C=CC=C1)C1=C(C=CC(=C1)F)OCC(=O)O | C16H15FO3
